US07714010B2
e) 5′-Amino-1′-methyl-6′-nitro-spiro[cyclopropane-1,3′-indoline]-2′-one
2,2,2-Trifluoro-N-(1′-methyl-6′-nitro-2′-oxo-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide (2 g) is dissolved in MeOH (15 ml), DMF (10 ml) and water (6.1 ml). Freshly powdered K2CO3 (2.9 g; 21 mmol) is added and the reaction is stirred at 50° C. for 12 h. After completion of the reaction the mixture is poured into water and the precipitate is collected by filtration and washed with 2-propanol and tertbutylmethyl ether. The compound (1 g) is obtained as a red solid.

reactant | 2,2,2-Trifluoro-N-(1′-methyl-6′-nitro-2′-oxo-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide | 2 g | FC(C(=O)NC=1C=C2C3(C(N(C2=CC1[N+](=O)[O-])C)=O)CC3)(F)F | C13H10F3N3O4
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | water | 6.1 ml | O | H2O
reactant | K2CO3 | 21 mmol, 2.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 15 ml | CO | CH4O
product | 5′-Amino-1′-methyl-6′-nitro-spiro[cyclopropane-1,3′-indoline]-2′-one | 1 g | NC=1C=C2C3(C(N(C2=CC1[N+](=O)[O-])C)=O)CC3 | C11H11N3O3
